US04242440
Synthesis of 5,7,11,13,17,19-tetracosahexayn-1,24-diol bisethylurethane (XLV)
Following the general procedure of Example 1, 1.3 parts CF4 diol, 40 parts tetrahydrofuran, 1.42 parts ethyl isocyanate, 0.2 parts DBTE, and 4 parts TEA were mixed together and allowed to react at room temperature for 11/2 hours. The product was precipitated by the addition of 175 parts n-hexane and was quickly filtered and washed several times with additional n-hexane. After drying, the 2.3 parts of product XLV was obtained representing a 95.8% conversion. The product had a fluffy texture which changes blue very rapidly when exposed to daylight. The product was recrystallized by dissolving in 40 parts hot acetone followed by 20 parts hot petroleum ether. The precipitate turned blue during crystallization at about -8° C. The melting point of the material was 146.4° to 148.8° C.

reactant | 5,7,11,13,17,19-tetracosahexayn-1,24-diol | C(CCCC#CC#CCCC#CC#CCCC#CC#CCCCCO)O | C24H26O2
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,7,11,13,17,19-tetracosahexayn-1,24-diol bisethylurethane | C(C)N(C(=O)OCC)CC.C(CCCC#CC#CCCC#CC#CCCC#CC#CCCCCO)O | InChI=1S/C24H26O2.C7H15NO2/c25-23-21-19-17-15-13-11-9-7-5-3-1-2-4-6-8-10-12-14-16-18-20-22-24-26;1-4-8(5-2)7(9)10-6-3/h25-26H,5-8,17-24H2;4-6H2,1-3H3
